US07683056B2
2-[3,5-bis(trifluoromethyl)phenyl]-N-(6′-chloro-6-fluoro-2-methyl-3,4′-bipyridin-3′-yl)-N,2-dimethylpropanamide (D54)
2-[3,5-bis(trifluoromethyl)phenyl]-N-(6-chloro-4-iodo-3-pyridinyl)-N,2-dimethylpropanamide (200 mg, 0.363 mmol), 2-fluoro-6-methylpiperidine-5 boronic acid (73 mg, 0.472 mmol), sodium carbonate solution (0.4 mL, 2M), tetrakistriphenylphosphinepalladium (4 mg, 0.00363 mmol) in dioxan (2 mL) were heated together in the microwave at 110° C. for 30 minutes. The mixture was partitioned between EtOAc and sat NaHCO3 solution. Aqueous layer extracted with EtOAc ×3. Combined extracts dried and evaporated. Residue purified on a 12+M horizon column eluting with Pet Et2O to 60% EtOAc/Pet Et2O. Solvent evaporated under reduced pressure to afford the title compound in quantative yield.

reactant | 2-[3,5-bis(trifluoromethyl)phenyl]-N-(6-chloro-4-iodo-3-pyridinyl)-N,2-dimethylpropanamide | 0.363 mmol, 200 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C)C=1C=NC(=CC1I)Cl)(C)C)(F)F | C18H14ClF6IN2O
reactant | 2-fluoro-6-methylpiperidine-5 boronic acid | 0.472 mmol, 73 mg | FC1NC(C(CC1)B(O)O)C | C6H13BFNO2
reactant | sodium carbonate | 2M, 0.4 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | dioxan | 2 mL | O1CCOCC1 | C4H8O2
catalyst | tetrakistriphenylphosphinepalladium | 0.00363 mmol, 4 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-[3,5-bis(trifluoromethyl)phenyl]-N-(6′-chloro-6-fluoro-2-methyl-3,4′-bipyridin-3′-yl)-N,2-dimethylpropanamide | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C)C=1C=NC(=CC1C=1C(=NC(=CC1)F)C)Cl)(C)C)(F)F | C24H19ClF7N3O
